US08980934B2
(3-(Bromomethyl)-1-(p-toluenesulfonyl)azetidin-3-yl)methanol
6-(p-Toluenesulfonyl)-2-oxa-6-azaspiro[3.3]heptane (7.99 g, 31.5 mmol) was suspended in Et2O (300 mL) and cooled to 0° C. A solution of HBr (48% in AcOH; 10 mL) in Et2O (20 mL) was added dropwise over 20 min. The resulting mixture was warmed to rt and stirred for 1 h. Reaction was monitored by LC-MS. NaHCO3 (aq. satd., 200 mL) was added and the resulting phases were separated. The aq layer was extracted with Et2O (100 mL) and then combined Et2O layer was dried (MgSO4), filtered, concentrated to dryness to give the title compound as a white solid (10.2 g, 97%). 1H NMR (400 MHz, CDCl3) δ ppm 7.74 (d, J=8.3 Hz, 2H), 7.40 (d, J=8.0 Hz, 2H), 3.69 (d, J=4.8 Hz, 2H), 3.62 (d, J=8.5 Hz, 2H), 3.55 (d, J=8.5 Hz, 2H), 3.46 (s, 2H), 2.48 (s, 3H), 1.55 (t, J=5.0 Hz, 1H); MS ESI 333.9, 335.9 [M+H]+, calcd for [C12H16BrNO3S+H]+334.0, 336.0.

reactant | 6-(p-Toluenesulfonyl)-2-oxa-6-azaspiro[3.3]heptane | 31.5 mmol, 7.99 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC2(COC2)C1)C | C12H15NO3S
reactant | HBr | 10 mL | Br | BrH
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | Et2O | 300 mL | CCOCC | C4H10O
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | (3-(Bromomethyl)-1-(p-toluenesulfonyl)azetidin-3-yl)methanol | 10.2 g, 97% | BrCC1(CN(C1)S(=O)(=O)C1=CC=C(C=C1)C)CO | C12H16BrNO3S
